US04980360
To a stirred mixture of 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline (2.3 g, 0.01 mole), 1-bromo-6-phenylhexane (2.4 g, 0.01 mole) and HMPA (25 ml), at 130° C., was added dropwise, during 2 h, a mixture of Et3N (1ml) and propylene oxide (9 ml). After four more hours, an additional 10 ml of the Et3N--propylene oxide mixture was introduced. Heating was continued for 24 h and 1.2 g (0.005 mole) of 1-bromo-6-phenylhexane was added followed by another 10 ml of Et3N--propylene oxide. This final mixture was heated for 6 h, allowed to cool, diluted with CHCl3 (50 ml), placed on a silica gel column and eluted with CHCl3. Concentration of the yellow eluate gave 2.3 g of 6-methoxy-4-methyl-8-nitro-5-(6-phenylhexoxy) quinoline as an oil which was used without further purification.

reactant | 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline | 0.01 mole, 2.3 g | OC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C11H10N2O4
reactant | 1-bromo-6-phenylhexane | 0.01 mole, 2.4 g | BrCCCCCCC1=CC=CC=C1 | C12H17Br
reactant | HMPA | 25 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | propylene oxide | 9 ml | C1C(C)O1 | C3H6O
reactant | 1-bromo-6-phenylhexane | 0.005 mole, 1.2 g | BrCCCCCCC1=CC=CC=C1 | C12H17Br
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Et3N | 10 ml | CCN(CC)CC | C6H15N
solvent | Et3N | 10 ml | CCN(CC)CC | C6H15N
solvent | Et3N | 1ml | CCN(CC)CC | C6H15N
product | 6-methoxy-4-methyl-8-nitro-5-(6-phenylhexoxy) quinoline | 2.3 g | COC=1C(=C2C(=CC=NC2=C(C1)[N+](=O)[O-])C)OCCCCCCC1=CC=CC=C1 | C23H26N2O4
